US07989457B2
Step E. 1-(2-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-ol
Dissolve 1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-one (0.516 g, 1.48 mmol) in ethanol (5 mL). Add sodium borohydride (0.224 g, 5.93 mmol) at 0° C. under inert atmosphere and stir three hours. Quench reaction with saturated solution of ammonium chloride, dilute with ethyl acetate. Wash organic phase with saturated sodium bicarbonate solution, then saturated sodium chloride solution. Dry organic fraction with Na2SO4, filter and concentrate under reduced pressure. Purify on silica gel chromatography (0-30% Ethyl acetate/hexanes gradient) to provide 0.5 g of title compound (97%).

reactant | 1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-one | 1.48 mmol, 0.516 g | CC1=C(C=CC(=C1)C(CCCCCC)=O)C1=CC=C(C=C1)C(F)(F)F | C21H23F3O
reactant | sodium borohydride | 5.93 mmol, 0.224 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-ol | 0.5 g, 97% | CC1=C(C=CC(=C1)C(CCCCCC)O)C1=CC=C(C=C1)C(F)(F)F | C21H25F3O
